US04522945
To 1 part of a solution of 2 parts of thiophene in 40 parts of ethanol are added 18 parts of N-[3-[4-(4-fluorobenzoyl)-1-piperidinyl]propyl]-2-nitrobenzamide and 200 parts of methanol. The whole is hydrogenated at normal pressure and at room temperature with 2 parts of platinum-on-charcoal catalyst 5%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The oily residue is crystallized from 2-propanol. The product is filtered off and dried, yielding 7.5 parts (45%) of 2-amino-N-[3-[4-(4-fluorobenzoyl)-1-piperidinyl]propyl]benzamide; mp. 113.2° C.

reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | ethanol | C(C)O | C2H6O
reactant | N-[3-[4-(4-fluorobenzoyl)-1-piperidinyl]propyl]-2-nitrobenzamide | FC1=CC=C(C(=O)C2CCN(CC2)CCCNC(C2=C(C=CC=C2)[N+](=O)[O-])=O)C=C1 | C22H24FN3O4
reactant | hydrogen | [H][H] | H2
catalyst | platinum-on-charcoal | [Pt] | Pt
solvent | methanol | CO | CH4O
product | 2-amino-N-[3-[4-(4-fluorobenzoyl)-1-piperidinyl]propyl]benzamide | 45% | NC1=C(C(=O)NCCCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=CC=C1 | C22H26FN3O2
